US07355049B2
3-(Biphenyl-3-yloxymethyl)-benzoic acid was prepared using general procedure A from 3-phenylphenol (available from Aldrich, Milwaukee, Wis.) and 3-(bromomethyl)benzoic acid methyl ester (available from Lancaster Synthesis Ltd., Morcambe, Lancashire, UK). Yield: 76 mg. Mass spectrum (ES) MH+=305.

reactant | 3-phenylphenol | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | 3-(bromomethyl)benzoic acid methyl ester | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-(Biphenyl-3-yloxymethyl)-benzoic acid | C1(=CC(=CC=C1)OCC=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C20H16O3
